US07871982B2
2-(4,5-Dimethoxy-2-nitrophenyl)-5-methylthio-1,3,4-thiadiazole
Potassium carbonate (13.8 mg, 1.0 mmol) and 0.0624 ml (1.0 mmol) of methyl iodide were added to a solution of 150 mg (0.510 mmol) of 5-(4,5-dimethoxy-2-nitrophenyl)-1,3,4-thiadiazole-2-thiol produced in Reference Example 2 in N,N-dimethylformamide (2 ml), and the mixture was stirred at room temperature for 10 min. The mixture was diluted with 30 ml of ethyl acetate, and the diluted solution was washed with 30 ml of a 10% aqueous ammonium chloride solution and 30 ml of saturated brine. The organic layer was dried over anhydrous sodium sulfate and was then filtered. The filtrate was concentrated under the reduced pressure, and the resultant crystal was washed with diisopropyl ether to give 140 mg (yield 89%) of the title compound.

reactant | Potassium carbonate | 1.0 mmol, 13.8 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 1.0 mmol, 0.0624 ml | CI | CH3I
reactant | 5-(4,5-dimethoxy-2-nitrophenyl)-1,3,4-thiadiazole-2-thiol | 0.510 mmol, 150 mg | COC1=CC(=C(C=C1OC)C1=NN=C(S1)S)[N+](=O)[O-] | C10H9N3O4S2
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 2-(4,5-Dimethoxy-2-nitrophenyl)-5-methylthio-1,3,4-thiadiazole | 140 mg, yield 89% | COC1=CC(=C(C=C1OC)C=1SC(=NN1)SC)[N+](=O)[O-] | C11H11N3O4S2
